US05504082
2-((3-Methyl-4-(2-aminoethylthio)-2-pyridyl)methylthio)-1H-benzimidazole (8.5 g) was dissolved in ethanol and thereto was added benzaldehyde (2.8 g). The mixture was stirred at 50°-55° C. for 5 hours and sodium borohydride (0.98 g) was added thereto under ice-cooling. The mixture was stirred at room temperature for 2 hours. After the completion of the reaction, ethanol was distilled away and the residue was eluted with chloroform. The chloroform layer was dried over anhydrous magnesium sulfate and the solvent was distilled away. The residue was purified by column chromatography to give 2-((3-methyl-4-(2-benzylaminoethylthio)-2-pyridyl)methylthio)-1H-benzimidazole.

reactant | 2-((3-Methyl-4-(2-aminoethylthio)-2-pyridyl)methylthio)-1H-benzimidazole | 8.5 g | CC=1C(=NC=CC1SCCN)CSC1=NC2=C(N1)C=CC=C2 | C16H18N4S2
reactant | benzaldehyde | 2.8 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium borohydride | 0.98 g | [BH4-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-((3-methyl-4-(2-benzylaminoethylthio)-2-pyridyl)methylthio)-1H-benzimidazole | CC=1C(=NC=CC1SCCNCC1=CC=CC=C1)CSC1=NC2=C(N1)C=CC=C2 | C23H24N4S2
